US07220760B2
A mixture of 4-chloroquinoline (13.9 g) and cyclopropyl amine (9.7 g) was heated at 180° C. under stirring for 16 hours. After cooling, a solution of sodium hydroxide 1N (200 ml) was added. After extraction with dichloromethane (200 ml), the organic layer was separated and dried over sodium sulfate. The solvent was removed under reduce pressure to afford an oil, which was crystallized in acetonitrile (50 ml). Cyclopropyl-quinolin-4-yl-amine (6.6 g; 42% yield) was obtained after filtration.

reactant | 4-chloroquinoline | 13.9 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | cyclopropyl amine | 9.7 g | C1(CC1)N | C3H7N
solvent | sodium hydroxide | 1N, 200 ml | [OH-].[Na+]
product | Cyclopropyl-quinolin-4-yl-amine | 6.6 g, 42% yield | C1(CC1)NC1=CC=NC2=CC=CC=C12 | C12H12N2
